US05114949
A mixture of 4-[(5-fluoro-2-indolyl)methyl]piperidine (2.9 g), 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (3.5 g) and sodium hydrogen carbonate (1.1 g) in tetrahydrofuran (30 cc) and dimethylformamide (30 cc) is brought to reflux for 12 hours. After evaporation to dryness at 80° C. under reduced pressure (20 mm Hg; 2.7 kPa), the residue is taken up with water (150 cc) and extracted with ethyl acetate (2×75 cc). The combined organic phases are dried over magnesium sulphate and taken to dryness at 80° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is purified by flash chromatography on a silica column under a stream of nitrogen at moderate pressure (0.5-1.5 bar) with a cyclohexane/ethyl acetate mixture (50:50 by volume) as eluent. 2-{2-[4-((5-Fluoro-2-indolyl)methyl)piperidino]ethyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (2.3 g), m.p. 154° C., is obtained.

reactant | 4-[(5-fluoro-2-indolyl)methyl]piperidine | 2.9 g | FC=1C=C2C=C(NC2=CC1)CC1CCNCC1 | C14H17FN2
reactant | 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 3.5 g | ClCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C12H10ClNO2S
reactant | sodium hydrogen carbonate | 1.1 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
product | 2-{2-[4-((5-Fluoro-2-indolyl)methyl)piperidino]ethyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.3 g | FC=1C=C2C=C(NC2=CC1)CC1CCN(CC1)CCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C26H26FN3O2S
